US07662808B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-nitro-benzamide hydrochloric acid salt (Compound G3)
Was prepared by Method G from 4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenylamine and 3-nitrobenzoyl chloride. Mp. >280° C.

reactant | 4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-nitro-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=CC(=CC=C2)[N+](=O)[O-])=O | InChI=1S/C20H22N4O3.ClH/c25-20(15-2-1-3-19(14-15)24(26)27)21-16-4-6-17(7-5-16)23-13-12-22-10-8-18(23)9-11-22;/h1-7,14,18H,8-13H2,(H,21,25);1H
